Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
___ Complaint:
Fever
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ year old female with a history of transformed lymphoma s/p 
autoSCT 44 days ago as well as comorbid CVID and CLL, who 
received IVIg for immunodeficiency on the day prior to 
admission. Today, she had a headache, rigors, and fever to 
100.5. She also reported general malaise. Patient has an 
indwelling catheter and IVC filter in place. She presented to 
___, where blood cultures x 2, urinalysis and urine 
culture were performed. She received empiric vancomycin and 
cefepime 2 grams IV as well as oseltamivir, flu swab pending. 
CXR at ___ showed no evidence of pneumonia. Urinalysis 
was negative for evidence of infection. 

In the ED, initial vitals were 102.4 ___ 18 94%. Labs at 
___ showed WBC count 8.8K with 89% neutrophils, 
hematocrit 28.2, platelets 104K. INR was 1.3. Anion gap was 13. 
CT head showed no acute intracranial abnormality. Patient 
received ondansetron 2 mg IV x 1, metoclopramide 5 mg IV x 1, 
and hydromorphone 2 mg IV x 1. Lumbar puncture was not attempted 
due to patient being on rivaroxaban, and it was recommended he 
start empiric IV acyclovir and he got one dose. Vitals on 
transfer were 101.7 106 122/56 18 94% RA. 

On the floor, patient notes diffuse headache with some neck 
discomfort and stiffness, as well as photophobia. This headache 
is different than migraines she has had in the past. She has 
also been nauseous and vomited several times, non-bloody, 
non-bilious. 

Review of sytems: 
(+) Per HPI 
(-) Denies recent weight loss or gain. Denies headache, sinus 
tenderness, rhinorrhea or congestion. Denies cough, shortness of 
breath. Denies chest pain or tightness, palpitations. Denies 
diarrhea, constipation or abdominal pain. No recent change in 
bowel or bladder habits. No dysuria. Denies arthralgias. Ten 
point review of systems is otherwise negative. 

 
Past Medical History:
ONCOLOGIC HISTORY: 
Transformed DLBCL with a history of follicular lymphoma stage 
IIA 
___: Transplant Date: 1 
___: Day Post Transplant: 44 
___: Graft: Auto 
___: Conditioning Intensity: Ablative 
___: Conditioning Regimen: BEAM 

- ___ developed worsening musculoskeletal back pain, early 
satiety, hypoalbuminemia and found to have mesenteric mass 
- ?___ ex lap with 15 cm lobulated mass involving the 
duodenum, retroperitoneum and celiac access. Biopsies showed 
Follicular lymphomas grade II/III. Reportedly negative staging 
Gallium scan. CD10+ BCL2+ 
- ___ completed 6 cycles CHOP, complications included 
SVC/innominate thrombus (tPA) 
- ___ CT showed persistent 7 x 3.5 x 9 cm oblong mass, bone 
marrow at completion was negative for lymphomatous involvement. 
- ___ PET-CT with very slight amount of increased tracer 
activity within the posterior left supraclavicular region. No 
other areas of FDG avid disease were noted 
- ___ through ___ per records she was treated with CVP 
followed by course of single agent Rituxan 
- ___ through ___ surveillance imaging with no evidence of 
recurrent disease, stable mesenteric mass. 
- ___ abdominal pain led to CT with no change in mass size, 
increased conspicuity of nodular borders 
- ___ PET-CT with L. hilar LN PET-avid to SUV 7.9, otherwise 

stable mesenteric mass with low level SUV 2.2 stable since 
prior. 
- ___ CT torso showed persistent mesenteric and left hilar 
lymphadenopathy. Stable right middle lobe small focus of ground 
glass opacity and adjacent subpleural fat hypertrophy, 
suggestive 
of inflammatory process. Stable right adnexal cyst. 
- ___ Presented to PCP ___ ___iscomfort. 
Exam 
revealed new adenopathy. Labs notable for LDH 341, WBC 10.1, 
normal differential, PLT 452. 
- ___ PET CT revealed, "Large left cervical, 
supraclavicular, mediastinal 
lymphadenopathy, and retroperitoneal lymphadenopathy, and small 
mesenteric 
lymphadenopathy, all of which is markedly FDG-avid and 
concerning 
for 
lymphoma." SUVmax 35.5. 
- ___iopsy revealed diffuse large B cell 
lymphoma, CD20+ CD10+ lambda restricted. MIB and cytogenetics 
are 
pending 
- ___ C1D1 ICE 
- ___ C1 Rituximab, clincally improved adenopathy 
- ___ C2 Rituximab, WBC 6.5, PLT 43 
- ___ Admit for C2D1 ICE 
- ___ C3 Rituximab 
- ___ PET CT showed almost complete resolution of FDG avid 
disease with a residual focus of avidity in the bed of the 
former 
abdominal mass, SUV 3 
- ___ C4 Rituximab 
- ___ C4 ICE followed by stem cell mobilization and 
collection, BMBx showed a nest of CLL unrelated to her 
aggressive 
lymphoma 
- ___ Presented with large DVTs, SVC filter placed 
- ___ D0 of a BEAM autoSCT, course notable for mucositis 
- ___ Switched to Rivaroxiban for AC 
- ___. Interval decrease in size of 
retroperitoneal lymphadenopathy, with persistent low-level FDG 
uptake. No new FDG-avid disease. 2. Resolution of cervical, 
supraclavicular and mediastinal lymphadenopathy. 3. IVC filter 
in place, new since the prior PET-CT. 4. Stable non-FDG avid 
right adnexal hypodensity. PFTs with normal Hb adjusted DLCO 
- ___ IVIg 400 mg/kg 

PAST MEDICAL HISTORY: 
--Transformed DLBCL with history of follicular lymphoma as noted 

above. 
--CLL, noted on BM biopsy on ___. 
--Deep venous thrombosis 
--Cerebral Aneurysm s/p coil ___ c/b hyperthesia of R V1/V2 
(*Known slight CN VI palsy & mild proptosis of R eye) 
--Hypogammaglobulinemia 
--Mild GERD 
--OA / LBP 
--Small Intestinal Bacterial Overgrowth 
--Trochanteric Bursitis 
--s/p Excisional Bx L Cervical Lymph Node 
--s/p L total knee replacement ___, walks with cane 
--s/p I&D Labial Abscess 
--s/p Excision Cyst R ___ Digit of Hand 

 
Social History:
___
Family History:
Brother: lymphoma. 

 
Physical Exam:
ADMISSION EXAM
--------------
Vitals: T: 101.8 BP: 130/84 P: 113 R: 18 O2: 94% on RA 
GEN: Alert, oriented to name, place and situation. Fatigued 
appearing but comfortable, no acute signs of distress. 
HEENT: NCAT, Pupils equal and reactive, sclerae anicteric, OP 
clear, MM dry. 
Neck: Supple, no JVD 
Lymph nodes: No cervical, supraclavicular LAD. 
CV: S1S2, tachycardic but regular, no murmurs, rubs or gallops. 
RESP: Good air movement bilaterally, no rhonchi or wheezing. 
ABD: Soft, non-tender, non-distended, + bowel sounds. 
EXTR: No lower leg edema, no clubbing or cyanosis. Erythematous 
changes on lower legs consistent with known venous stasis, per 
patient. 
DERM: No active rash. Indwelling catheter in right chest, with 
mild erythema, no fluctuance, reportedly unchanged. 
Neuro: non-focal. 
PSYCH: Appropriate and calm. 

DISCHARGE EXAM
--------------
Vitals:  98.___.4 125/62 88 18 97% RA
GEN: Alert, oriented. NAD, looks well today
HEENT: NCAT, Pupils equal and reactive, sclerae anicteric, OP 
clear, MMM.  
Neck: Supple, no JVD  
Lymph nodes: No cervical, supraclavicular LAD.  
CV: S1S2, RRR, no murmurs, rubs or gallops.  
RESP: Good air movement bilaterally, no rhonchi or wheezing.  
ABD: Soft, non-tender, non-distended, + bowel sounds.  
EXTR: No lower leg edema, no clubbing or cyanosis. Erythematous 
changes on lower legs consistent with known venous stasis, per 
patient.  
DERM: Indwelling catheter in right chest without acute signs of 
infxn. 
Neuro: non-focal.  

 
Pertinent Results:
ADMISSION LABS
--------------
___ 06:25AM BLOOD WBC-10.0# RBC-2.70* Hgb-8.9* Hct-28.6* 
MCV-106* MCH-32.9* MCHC-31.1 RDW-21.3* Plt ___
___ 06:25AM BLOOD ___ PTT-33.1 ___
___ 06:25AM BLOOD Glucose-118* UreaN-9 Creat-0.8 Na-137 
K-3.5 Cl-103 HCO3-24 AnGap-14
___ 06:25AM BLOOD ALT-13 AST-24 LD(LDH)-174 AlkPhos-72 
TotBili-0.3
___ 06:25AM BLOOD Calcium-8.5 Phos-2.7 Mg-1.7

DISCHARGE LABS
--------------
___ 06:00AM BLOOD WBC-2.2* RBC-2.41* Hgb-8.1* Hct-25.9* 
MCV-107* MCH-33.6* MCHC-31.3 RDW-21.0* Plt Ct-78*
___ 06:00AM BLOOD Glucose-91 UreaN-9 Creat-0.6 Na-140 K-4.0 
Cl-110* HCO3-25 AnGap-9
___ 06:00AM BLOOD Calcium-8.2* Phos-2.5* Mg-2.1

PENDING LABS
--------------
___ 11:57AM BLOOD EBV PCR, QUANTITATIVE, WHOLE BLOOD-PND
___ 11:57 am CMV Viral Load (Pending)
 
Brief Hospital Course:
___ with DVT s/p IVC filter and on rivaroxaban, CLL, CVID, and 
transformed lymphoma s/p autoSCT 44 days ago, and IVIG ___, 
who now presented with headache, fevers/rigors, and vomiting.

# FEVER, HEADACHE, VOMITING: These symptoms occured within 12 
hours of finishing her last infusion of IVIG. Etiology is most 
likely aseptic meningitis as she also had neck stiffness and 
some mild photophobia. Her symptoms improved with supportive IV 
fluids, anti-emetics, and NSAIDs. At first she was started 
empirically on IV Vanc, IV cefepime, IV acyclovir, and Tamiflu 
to treat possible bacterial or HSV meningitis or influenza. 
Rapid flu screen was negative so Tamiflu was stopped. She had no 
encephalitis and was on ppx acyclovir prior to presentation, so 
suspicion of HSV meningoencephalitis was very low so IV 
acyclovir was stopped. Once ___ blood cultures were 
negative >24 hours, IV antibiotics were also stopped. The 
patient continued to improve and was afebrile > 24 hrs prior to 
discharge. 

# LYMPHOMA: s/p auto-stem cell transplant 44 days prior to 
admission. She was continued on ppx bactrim and acyclovir. She 
will f/u with her outpatient providers.

# H/o DVT: Rivaroxaban was held while inpatient since we were at 
first considering lumbar puncture. It was restarted on 
discharge. 

TRANSITIONAL ISSUES:
--------------------
# F/u CMV and EBV viral loads
# Code status: Full 
# Contact: husband ___, ___ 

 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Acyclovir 400 mg PO Q8H 
2. FoLIC Acid 1 mg PO DAILY 
3. Furosemide 20 mg PO DAILY 
4. Gabapentin 900 mg PO BID 
5. Omeprazole 20 mg PO DAILY 
6. OxycoDONE (Immediate Release)  5 mg PO Q6H:PRN pain 
7. Potassium Chloride 10 mEq PO DAILY 
8. Rivaroxaban 15 mg PO DAILY 
9. Sulfameth/Trimethoprim SS 1 TAB PO DAILY 
10. Venlafaxine 25 mg PO BID 
11. Cyanocobalamin 1000 mcg PO DAILY 
12. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1. Acyclovir 400 mg PO Q8H 
2. FoLIC Acid 1 mg PO DAILY 
3. Multivitamins 1 TAB PO DAILY 
4. OxycoDONE (Immediate Release)  5 mg PO Q6H:PRN pain 
5. Gabapentin 900 mg PO BID 
6. Sulfameth/Trimethoprim SS 1 TAB PO DAILY 
7. Venlafaxine 25 mg PO BID 
8. Metoclopramide 10 mg PO TID:PRN nausea 
RX *metoclopramide HCl 10 mg 1 tablet by mouth Up to three times 
per day Disp #*15 Tablet Refills:*0
9. Cyanocobalamin 1000 mcg PO DAILY 
10. Furosemide 20 mg PO DAILY 
11. Omeprazole 20 mg PO DAILY 
12. Potassium Chloride 10 mEq PO DAILY 
13. Rivaroxaban 15 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
IVIG Aseptic meningitis

SECONDARY DIAGNOSIS:
transformed lymphoma s/p auto stem cell transplant
CVID
Neutropenia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the hospital for high fevers, headache, and 
vomiting. We are not sure what caused your symptoms, but the 
most likely cause is IVIG-associated aseptic meningitis. Another 
cause may be a viral infection. We felt it was very unlikely you 
had a bacterial infection so we stopped your antibiotics. You 
continued to improve. Your fevers and headaches improved. Your 
vomiting was well-controlled on medications. And you were able 
to tolerate enough hydration by mouth and no longer needed IVs, 
so you were discharged home with plans to follow up with Dr. 
___ Dr. ___.

It was a pleasure to take care of you during your hospital stay,
Your ___ Team 
 
Followup Instructions:
___